US08039472B2
To 3-(4-hydroxyphenyl)-1-propanol (10 g, 66 mmol) and potassium carbonate (13.5 g, 100 mmol) in acetone (200 ml) is added (S)-glycidol (6.5 ml, 100 mmol). The mixture is heated at reflux for 18 hours. After cooling to room temperature the solvent is removed in vacuo and the residue partitioned between EtOAc and water. The aqueous layer is further extracted twice with EtOAc and the combined organic portions are washed with water, brine, dried (MgSO4), filtered and concentrated in vacuo. The crude residue is purified by flash column chromatography on silica eluting with 1:1 EtOAc/iso-hexane to afford (S)-3-[4-(3-Hydroxy-propyl)-phenoxy]-propane-1,2-diol as a white solid; 1H NMR (CDCl3): 1.20 (1H, br), 1.85 (2H, pent, J=6.8 Hz), 1.98 (1H, br), 2.58 (1H, br), 2.65 (2H, tr, J=6.9 Hz), 3.56 (2H, tr, J=6.8 Hz), 3.72 (1H, m), 3.83 (1H, m), 4.00 (2H, dd, J=2.1 Hz, J=6.5 Hz), 4.09 (1H, br), 6.82 (2H, d, J=7.4 Hz), 7.10 (2H, d, J=7.4 Hz).

reactant | 3-(4-hydroxyphenyl)-1-propanol | 66 mmol, 10 g | OC1=CC=C(C=C1)CCCO | C9H12O2
reactant | potassium carbonate | 100 mmol, 13.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-glycidol | 100 mmol, 6.5 ml | C1[C@@H](O1)CO | C3H6O2
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | (S)-3-[4-(3-Hydroxy-propyl)-phenoxy]-propane-1,2-diol | OCCCC1=CC=C(OC[C@H](CO)O)C=C1 | C12H18O4
